US05885999
a) N-[(1-t-Butoxycarbonyl-4-phenylpiperidin-4-yl)methyl]acetamide
Acetic anhydride (2.59 mL, 2.81 g, 27.5 mmol) was added dropwise to a stirred, cooled (0° C.) solution of 4-aminomethyl-1-t-butoxycarbonyl-4-phenylpiperidine (7.96 g) and pyridine (3.03 mL, 2.97 g, 37.5 mmol) in dichloromethane (100 mL) and the mixture was stirred at room temperature for 18 h. The solvent was evaporated under reduced pressure, aqueous sodium hydrogen carbonate (saturated, 100 mL) was added and the mixture was extracted with ethyl acetate (3×100 mL). The combined organic fractions were washed with aqueous citric acid (10%, 2×100 mL), aqueous sodium hydrogen carbonate (saturated, 100 mL) and brine (100 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate/hexane (50:50 increasing to 100:0) to give the title compound as an off-white solid (5.96 g, 72% from 4-cyano-4-phenylpiperidine hydrochloride), δH (250 MHz, CDCl3) 7.45-7.26 (5H, m), 5.00 (1H, br m), 3.67 (2H, m), 3.45 (2H, br m), 3.21 (2H, m), 2.08 (2H, m), 1.88 (3H, s), 1.78 (2H, m), and 1.43 (9H, s).

reactant | Acetic anhydride | 27.5 mmol, 2.59 mL, 2.81 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-aminomethyl-1-t-butoxycarbonyl-4-phenylpiperidine | 7.96 g | NCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H26N2O2
reactant | pyridine | 37.5 mmol, 3.03 mL, 2.97 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-[(1-t-Butoxycarbonyl-4-phenylpiperidin-4-yl)methyl]acetamide | 5.96 g, 72% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)CNC(C)=O | C19H28N2O3
